US06727264B1
2-METHYL-N-[3-(1-{[5-(2-PYRIDINYL)-2-THIENYL]METHYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure F and Scheme R using 5-(2-pyridinyl)-2-thiophenecarbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 420.1 (M+H)+.

reactant | 5-(2-pyridinyl)-2-thiophenecarbaldehyde | N1=C(C=CC=C1)C1=CC=C(S1)C=O | C10H7NOS
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-[3-(1-{[5-(2-PYRIDINYL)-2-THIENYL]METHYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC=1SC(=CC1)C1=NC=CC=C1)C | C25H29N3OS
